US07893056B2
[(2R)-3-{2-[6-(1-Azetidinyl)-5-fluoro-2-(methylthio)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (68 mg, 0.13 mmol) was dissolved in a mixture of AcOH/H2O (20 mL, 4:1) and stirred at RT until LCMS indicated completion of the deprotection (overnight). The reaction mixture was concentrated to dryness under vacuum and purified by RP-HPLC to provide [(2R)-3-{2-[6-(1-azetidinyl)-5-fluoro-2-(methylthio)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide (25 mg, 44%). LCMS: (M+H)+: 427.2.

reactant | [(2R)-3-{2-[6-(1-Azetidinyl)-5-fluoro-2-(methylthio)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.13 mmol, 68 mg | N1(CCC1)C1=C(C(=NC(=N1)SC)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F | C23H35FN6O4S
solvent | AcOH H2O | 20 mL | CC(=O)O.O
product | [(2R)-3-{2-[6-(1-azetidinyl)-5-fluoro-2-(methylthio)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 25 mg, 44% | N1(CCC1)C1=C(C(=NC(=N1)SC)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F | C18H27FN6O3S
